2123-12-28 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Hypoxia
   24 Hour Events:
 PICC LINE - START [**2123-12-27**] 03:30 PM
 MULTI LUMEN - START [**2123-12-27**] 03:31 PM
 MULTI LUMEN - STOP [**2123-12-27**] 04:23 PM
   One episode of mucous plugging last night, acute desat to 70s even on a
   NRB, tachypnea. Improved after multiple NT suctions.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2123-12-27**] 04:03 PM
   Cefipime - [**2123-12-27**] 08:00 PM
   Metronidazole - [**2123-12-27**] 11:28 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2123-12-28**] 02:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-28**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 111 (108 - 123) bpm
   BP: 112/84(90) {104/76(83) - 136/91(100)} mmHg
   RR: 27 (22 - 40) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 53.1 kg (admission): 41 kg
             Total In:
                                                                  2,344 mL
                                                                    164 mL
   PO:
             TF:
   IVF:
                                                                  2,344 mL
                                                                    164 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                    325 mL
   Urine:
                                                                    400 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,944 mL
                                                                   -161 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///15/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: No(t) Normocephalic
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal), No(t)
   S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   63 K/uL
   9.3 g/dL
   97 mg/dL
   0.8 mg/dL
   15 mEq/L
   3.6 mEq/L
   10 mg/dL
   118 mEq/L
   141 mEq/L
   27.8 %
   5.0 K/uL
        [image002.jpg]
                             [**2123-12-21**]  01:18 PM
                             [**2123-12-21**]  05:18 PM
                             [**2123-12-21**]  05:34 PM
                             [**2123-12-22**]  12:26 AM
                             [**2123-12-22**]  01:14 AM
                             [**2123-12-22**]  06:20 PM
                            [**2123-12-23**]  01:26 AM
                            [**2123-12-24**]  02:12 AM
                            [**2123-12-28**]  03:47 AM
                            [**2123-12-28**]  04:40 AM
   WBC
   11.7
   8.7
   7.9
   5.9
   5.0
   Hct
   30.9
   29.9
   27.6
   27.5
   26.0
   27.8
   Plt
   83
   87
   72
   62
   63
   Cr
   0.6
   0.7
   0.8
   0.7
   0.6
   0.8
   TCO2
   19
   19
   18
   Glucose
   61
   70
   70
   66
   94
   97
   Other labs: PT / PTT / INR:24.4/44.4/2.3, ALT / AST:55/82, Alk Phos / T
   Bili:97/3.5, Amylase / Lipase:/103, Differential-Neuts:82.8 %,
   Lymph:12.6 %, Mono:4.0 %, Eos:0.5 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.5 g/dL, LDH:239 IU/L, Ca++:8.6 mg/dL, Mg++:1.3 mg/dL, PO4:2.3
   mg/dL
   Imaging: CXR: My read: Unchanged, no consolidation
   Microbiology: [**2123-12-27**] 9:03 pm CATHETER TIP-IV      Source: RIJ.
      WOUND CULTURE (Pending):
   Blood CX [**2127-12-25**] NGTD
   [**2123-12-25**] 11:14 pm URINE     Site: CATHETER
                               **FINAL REPORT [**2123-12-27**]**
      URINE CULTURE (Final [**2123-12-27**]):    NO GROWTH
   Leptospira Ab pending
   Mycoplasma Ab pending
   VZV DNA, QL PCR               NOT DETECTED
   VDRL Results Pending
   TB - PCR Results Pending
   Assessment and Plan
 TACHYCARDIA, OTHER
 .H/O CVA (STROKE, CEREBRAL INFARCTION), OTHER
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOTENSION (NOT SHOCK)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 LIVER FUNCTION ABNORMALITIES
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O ALCOHOL ABUSE
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   Assessment and Plan: This is a 52 y/oM with hx of HIV (CD4 in [**2122**]
   598), HCV, HBV who presents with acute on chronic mental status
   changes- diagnosed with meningitis. Now with acute episode of hypoxia.
   .
   # Hypoxia: With rapid improvement seems to be slight aspiration event
   vs. mucous plugging in the setting of new Dobhoff placement. No new CXR
   findings.
   -Con't current antibiotics
   -Ween O2 as tolerated
   -Close monitoring with aspiration precautions
   .
   # AMS: Patient could have TB meningitis. No signs of lymphoma or acute
   bacterial meningitis. Has undergone 3 LPs so far but only two had TB
   studies sent. Patient underwent LP on [**12-24**] to complete TB rule out.
   Seems to have improved off of TB meds so TB meningitis less likely.
   Patient afebrile. High suspicion for opportunistic infections given HIV
   status. Mental status improved compared to before MICU transfer.
   Patient now able to verbalize and seems more alert. Doing well.  VZV
   pcr negative. Neuro recommends repeat MRI when stable
   - F/U TB tests
   - f/u mycobacterial cultures
   - ID following, need to define abx course today, will discuss with ID
   - monitor WBC count
   - monitor fever curve
   - Repeat MRI today
   .
   # Metabolic acidosis: Likely hyperchloremic in the setting of many NS
   fluid boluses to treat sinus tachycardia over the last several days.
   Previous urine lytes with minimal bicarb so RTA less likely.  However,
   did not improve with LR and is likely contributing to his tachypnea
   -LR for resuscitation if needed.
   -Recheck urine lytes/AG for ? RTA
   .
   # Mixed hyperbilirubinemia: T-bili improving (4.3 today). Was up to 8+
   prior to MICU stay. Abdomen is noticeably less distended and patient no
   longer demonstrating any tenderness on exam. LFTs, t-bili continue to
   be elevate though. Liver followed patient- feel that he is not a
   transplant candidate at this time.
   - trend LFTs
   .
   # hyponatremia: Resolved. Likely was [**2-15**] severe dehydration. Patient
   received salt tabs and IV fluids in MICU.
   - Salt tabs and fluid restriction
   - monitor trend
   .
   # HIV: last CD4 count > 500, not on HAART as of [**2122**]
   - repeat CD4 count 608
   - ID following
   .
   # insulin dependent DM: HSII and finger sticks QACHS
   .
   # FEN: TF/ replete electrolytes/ IVF at 100 cc/hr
   .
   # Prophylaxis: Subcutaneous heparin, no indication for ppi, bowel
   regimen
   .
   # Access: PICC
   .
   # Code: Full code
   .
   # Communication: Patient and mother: [**Telephone/Fax (1) 10523**]; [**Telephone/Fax (1) 10524**] (cell
   number). Brother [**Name (NI) 2465**]: [**Telephone/Fax (1) 10525**]
   .
   # Disposition: pending above, will plan for family meeting asap to
   discuss goals  of care
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2123-12-27**] 03:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2123-12-28 08:47:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   HPI:
   53yoM with HIV; admitted with meningitis of unclear pathogen with
   evaluation ongoing; transferred to ICU in setting of hypoxemia likely
   due to aspiration.
   24 Hour Events:
   Acutely hypoxemic overnight with SpO2 70%, that improved with
   suctioning of copious clear secretions.  CXR unchanged from
   admission.   Has been afebrile, persistently tachycardic.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2123-12-27**] 04:03 PM
   Cefipime - [**2123-12-27**] 08:00 PM
   Metronidazole - [**2123-12-27**] 11:28 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2123-12-28**] 02:17 AM
   Other medications:
   Vancomycin
   Miralax
   Senna
   Rifaxamin
   Lactulose
   MVI
   Insulin sliding scale
   Colace
   Heparin prophylaxis
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No change
   Flowsheet Data as of  [**2123-12-28**] 08:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 111 (108 - 123) bpm
   BP: 112/84(90) {104/76(83) - 136/91(100)} mmHg
   RR: 27 (22 - 40) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 53.1 kg (admission): 41 kg
             Total In:
                                                                  2,344 mL
                                                                    181 mL
   PO:
             TF:
   IVF:
                                                                  2,344 mL
                                                                    181 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                    325 mL
   Urine:
                                                                    400 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,944 mL
                                                                   -144 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///15/
   Physical Examination
   Gen:  Awake, not conversant
   Chest: Upper airway secretions by expiratory rhonchi
   CV: RRR
   Abd: s/nt/nd
   Ext: thin, cachectic, wasted; no edema
   Labs / Radiology
   9.3 g/dL
   63 K/uL
   97 mg/dL
   0.8 mg/dL
   15 mEq/L
   3.6 mEq/L
   10 mg/dL
   118 mEq/L
   141 mEq/L
   27.8 %
   5.0 K/uL
        [image002.jpg]
                             [**2123-12-21**]  01:18 PM
                             [**2123-12-21**]  05:18 PM
                             [**2123-12-21**]  05:34 PM
                             [**2123-12-22**]  12:26 AM
                             [**2123-12-22**]  01:14 AM
                             [**2123-12-22**]  06:20 PM
                            [**2123-12-23**]  01:26 AM
                            [**2123-12-24**]  02:12 AM
                            [**2123-12-28**]  03:47 AM
                            [**2123-12-28**]  04:40 AM
   WBC
   11.7
   8.7
   7.9
   5.9
   5.0
   Hct
   30.9
   29.9
   27.6
   27.5
   26.0
   27.8
   Plt
   83
   87
   72
   62
   63
   Cr
   0.6
   0.7
   0.8
   0.7
   0.6
   0.8
   TCO2
   19
   19
   18
   Glucose
   61
   70
   70
   66
   94
   97
   Other labs: PT / PTT / INR:24.4/44.4/2.3, ALT / AST:55/82, Alk Phos / T
   Bili:97/3.5, Amylase / Lipase:/103, Differential-Neuts:82.8 %,
   Lymph:12.6 %, Mono:4.0 %, Eos:0.5 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.5 g/dL, LDH:239 IU/L, Ca++:8.6 mg/dL, Mg++:1.3 mg/dL, PO4:2.3
   mg/dL
   Micro:  blood cultures
 NGTD, urine culture
 NGTD; CSF studies: VDRL,
   CMV, TB PCR
 pending
   CXR: no significant change; elevated R hemi-diaphragm
   Assessment and Plan
   53yoM with HIV, substance abuse history; admitted with AMS and
   determined to have meningitis without clear pathogen; now with
   recurrent episodes of aspiration/mucus plugging leading to hypoxemia.
   1.       Hypoxemia:
   - No clear evidence of consolidation, no evidence of bronchitis or
   infectious process.
   - Continue pulmonary toilet.
   2.       Meningitis:
   - Awaiting studies from CSF; currently treated with vancomycin/cefipime
   - Discuss with ID regarding discontinuation of metronidazole
   - repeat MRI
 mildly increased leptomingeal enhancement over pons, new
   bilat cerebellar infarcts
   3.       Metabolic acidosis (non-anion gap): ? respiratory acidosis
   superimposed on metabolic alkalosis secondary to more chronic
   respiratory alkalosis (CNS injury).
   - Await urine lytes, studies
   - repeat ABG today
   4.        Goals of care: I, [**First Name8 (NamePattern2) 2794**] [**Last Name (NamePattern1) 8334**], RN and Dr. [**First Name4 (NamePattern1) 82**] [**Last Name (NamePattern1) 944**]
   were all present during the family meeting held this afternoon at the
   patient
s bedside. Brother [**Name (NI) 10534**], who is the HCP, was present in
   addition to his aunt and mother. We discussed the new MRI findings, his
   recurrent respiratory failure and inability to clear oral secretions.
   After discussing the medical issues, goals of care were readdressed.
   The family clearly wishes Mr [**Name13 (STitle) 10535**] to be full code without
   limitations. Palliative care consult is pending.
   ICU Care
   Nutrition:  Restart tube feeds
   Glycemic Control:  Insulin sliding scale
   Lines:
   PICC Line - [**2123-12-27**] 03:30 PM
   Prophylaxis:
   DVT: Heparin prophylaxis
   Stress ulcer:  discontinue PPI
   VAP:  Not intubated
   Communication:  Attempt to contact family today
   Code status:  Full code
   Disposition : Critically ill, remain in ICU because of recurrent severe
   hypoxemia
   Total time spent:  55 minutes
   ------ Protected Section ------
   Mycoplasma IgM Ab positive
 1107
   Discussed case with Dr [**Last Name (STitle) 2141**]. Will initiate therapy directed at this
   pathogen rather than empirically treat mTB. It may be necessary to do a
   3^rd LP. Antibiotics choice is being considered -  likely high dose
   azithromycin with steroids.
   ------ Protected Section Addendum Entered By:[**Name (NI) 366**] [**Last Name (NamePattern1) 15**], MD
   on:[**2123-12-28**] 18:00 ------

2123-12-29 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   MRI showed new acute infarcts in the cerebellar hemispheres on both
   sides.
   ID: D/C Vanc/cef/flagyl; start azithro to treat mycoplasma meningitis
   ?!?  If no improvement, will start tx for TB meningitis but they are
   not sure risk>benefit.  They will try to figure out how to do CSF
   mycoplasma studies tomorrow.
   Neuro: consider brain biopsy to look for AFB
   Discussed GOC with family: want everything done
   Palliative care consulted: will continue to discuss
   Mild hypotensive, tachycardic and tachypnic overnight: gave 2L LR with
   mild improvement in BP;  CXR with trace edema.  VBG resp alkalosis + NG
   met acidosis, lac 2.5.  NRB didn't decrease RR.  Temp 99s-> cultured
   and gave tylenol.  Gave Morphine
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2123-12-27**] 04:03 PM
   Cefipime - [**2123-12-28**] 10:03 AM
   Vancomycin - [**2123-12-28**] 01:06 PM
   Metronidazole - [**2123-12-28**] 03:20 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2123-12-28**] 08:42 PM
   Dextrose 50% - [**2123-12-29**] 04:32 AM
   Morphine Sulfate - [**2123-12-29**] 05:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-29**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (99
   HR: 132 (103 - 145) bpm
   BP: 141/99(111) {79/37(44) - 141/99(111)} mmHg
   RR: 29 (18 - 43) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 53.1 kg (admission): 41 kg
             Total In:
                                                                  2,336 mL
                                                                  1,344 mL
   PO:
             TF:
                                                                    112 mL
                                                                     99 mL
   IVF:
                                                                  1,984 mL
                                                                  1,173 mL
   Blood products:
   Total out:
                                                                  1,675 mL
                                                                    295 mL
   Urine:
                                                                  1,275 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    661 mL
                                                                  1,049 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: ///15/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   74 K/uL
   8.1 g/dL
   61 mg/dL
   0.9 mg/dL
   15 mEq/L
   3.2 mEq/L
   9 mg/dL
   120 mEq/L
   143 mEq/L
   24.6 %
   5.0 K/uL
        [image002.jpg]
                             [**2123-12-21**]  05:18 PM
                             [**2123-12-21**]  05:34 PM
                             [**2123-12-22**]  12:26 AM
                             [**2123-12-22**]  01:14 AM
                             [**2123-12-22**]  06:20 PM
                            [**2123-12-23**]  01:26 AM
                            [**2123-12-24**]  02:12 AM
                            [**2123-12-28**]  03:47 AM
                            [**2123-12-28**]  04:40 AM
                            [**2123-12-29**]  03:14 AM
   WBC
   11.7
   8.7
   7.9
   5.9
   5.0
   5.0
   Hct
   30.9
   29.9
   27.6
   27.5
   26.0
   27.8
   24.6
   Plt
   83
   87
   72
   62
   63
   74
   Cr
   0.6
   0.7
   0.8
   0.7
   0.6
   0.8
   0.9
   TCO2
   19
   18
   Glucose
   61
   70
   70
   66
   94
   97
   61
   Other labs: PT / PTT / INR:22.8/45.4/2.2, ALT / AST:48/72, Alk Phos / T
   Bili:91/2.8, Amylase / Lipase:/103, Differential-Neuts:82.8 %,
   Lymph:12.6 %, Mono:4.0 %, Eos:0.5 %, Lactic Acid:2.4 mmol/L,
   Albumin:2.5 g/dL, LDH:239 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:1.4
   mg/dL
   Assessment and Plan: This is a 52 y/oM with hx of HIV (CD4 in [**2122**]
   598), HCV, HBV who presents with acute on chronic mental status
   changes- diagnosed with meningitis. Now with acute episode of hypoxia.
   .
   # Hypoxia: With rapid improvement seems to be slight aspiration event
   vs. mucous plugging in the setting of new Dobhoff placement. No new CXR
   findings.
   -Con't current antibiotics
   -Ween O2 as tolerated
   -Close monitoring with aspiration precautions
   .
   # AMS: Patient could have TB meningitis. No signs of lymphoma or acute
   bacterial meningitis. Has undergone 3 LPs so far but only two had TB
   studies sent. Patient underwent LP on [**12-24**] to complete TB rule out.
   Seems to have improved off of TB meds so TB meningitis less likely.
   Patient afebrile. High suspicion for opportunistic infections given HIV
   status. Mental status improved compared to before MICU transfer.
   Patient now able to verbalize and seems more alert. Doing well.  VZV
   pcr negative. Neuro recommends repeat MRI when stable
   - F/U TB tests
   - f/u mycobacterial cultures
   - ID following, need to define abx course today, will discuss with ID
   - monitor WBC count
   - monitor fever curve
   - Repeat MRI today
   .
   # Metabolic acidosis: Likely hyperchloremic in the setting of many NS
   fluid boluses to treat sinus tachycardia over the last several days.
   Previous urine lytes with minimal bicarb so RTA less likely.  However,
   did not improve with LR and is likely contributing to his tachypnea
   -LR for resuscitation if needed.
   -Recheck urine lytes/AG for ? RTA
   .
   # Mixed hyperbilirubinemia: T-bili improving (4.3 today). Was up to 8+
   prior to MICU stay. Abdomen is noticeably less distended and patient no
   longer demonstrating any tenderness on exam. LFTs, t-bili continue to
   be elevate though. Liver followed patient- feel that he is not a
   transplant candidate at this time.
   - trend LFTs
   .
   # hyponatremia: Resolved. Likely was [**2-15**] severe dehydration. Patient
   received salt tabs and IV fluids in MICU.
   - Salt tabs and fluid restriction
   - monitor trend
   .
   # HIV: last CD4 count > 500, not on HAART as of [**2122**]
   - repeat CD4 count 608
   - ID following
   .
   # insulin dependent DM: HSII and finger sticks QACHS
   .
   # FEN: TF/ replete electrolytes/ IVF at 100 cc/hr
   .
   # Prophylaxis: Subcutaneous heparin, no indication for ppi, bowel
   regimen
   .
   # Access: PICC
   .
   # Code: Full code
   .
   # Communication: Patient and mother: [**Telephone/Fax (1) 10523**]; [**Telephone/Fax (1) 10524**] (cell
   number). Brother [**Name (NI) 2465**]: [**Telephone/Fax (1) 10525**]
   .
   # Disposition: pending above, will plan for family meeting asap to
   discuss goals  of care

2123-12-29 09:43:00 Physician Attending Progress Note
Chief Complaint: Altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   MRI yesterday with new strokes.  Extensive discussion with family and
   confirmed that he is full code and continued aggressive level of care.
   Discontinued antibiotics given paucity of current microbiology data;
   however, serum mycoplasma returned positive and started on
   azithromycin.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2123-12-27**] 04:03 PM
   Cefipime - [**2123-12-28**] 10:03 AM
   Vancomycin - [**2123-12-28**] 01:06 PM
   Metronidazole - [**2123-12-28**] 03:20 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2123-12-28**] 08:42 PM
   Dextrose 50% - [**2123-12-29**] 04:32 AM
   Morphine Sulfate - [**2123-12-29**] 08:06 AM
   Other medications:
   NaCL tabs, Senna, Rifaximin, Lactulose
   MVI, Insulin sliding scale
   Folic acid, colace, Azithromycin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-29**] 09:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.1
C (98.7
   HR: 119 (103 - 145) bpm
   BP: 106/67(77) {79/37(44) - 141/99(111)} mmHg
   RR: 22 (18 - 43) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 53.1 kg (admission): 41 kg
             Total In:
                                                                  2,336 mL
                                                                  1,483 mL
   PO:
             TF:
                                                                    112 mL
                                                                    128 mL
   IVF:
                                                                  1,984 mL
                                                                  1,193 mL
   Blood products:
   Total out:
                                                                  1,675 mL
                                                                    395 mL
   Urine:
                                                                  1,275 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    661 mL
                                                                  1,088 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: ///15/
   Physical Examination
   General Appearance: Thin, chronically ill appearing, eyes open
   spontaneously, moving right hand and foot, non-verbal
   Head, Ears, Nose, Throat: Poor dentition
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abd: s/nt/nd
   Skin:  no edema
   Neurologic: minimal response, does not follow commands.
   Labs / Radiology
   8.1 g/dL
   74 K/uL
   61 mg/dL
   0.9 mg/dL
   15 mEq/L
   3.2 mEq/L
   9 mg/dL
   120 mEq/L
   143 mEq/L
   24.6 %
   5.0 K/uL
        [image002.jpg]
                             [**2123-12-21**]  05:18 PM
                             [**2123-12-21**]  05:34 PM
                             [**2123-12-22**]  12:26 AM
                             [**2123-12-22**]  01:14 AM
                             [**2123-12-22**]  06:20 PM
                            [**2123-12-23**]  01:26 AM
                            [**2123-12-24**]  02:12 AM
                            [**2123-12-28**]  03:47 AM
                            [**2123-12-28**]  04:40 AM
                            [**2123-12-29**]  03:14 AM
   WBC
   11.7
   8.7
   7.9
   5.9
   5.0
   5.0
   Hct
   30.9
   29.9
   27.6
   27.5
   26.0
   27.8
   24.6
   Plt
   83
   87
   72
   62
   63
   74
   Cr
   0.6
   0.7
   0.8
   0.7
   0.6
   0.8
   0.9
   TCO2
   19
   18
   Glucose
   61
   70
   70
   66
   94
   97
   61
   Other labs: PT / PTT / INR:22.8/45.4/2.2, ALT / AST:48/72, Alk Phos / T
   Bili:91/2.8, Amylase / Lipase:/103, Differential-Neuts:82.8 %,
   Lymph:12.6 %, Mono:4.0 %, Eos:0.5 %, Lactic Acid:2.4 mmol/L,
   Albumin:2.5 g/dL, LDH:239 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:1.4
   mg/dL
   Assessment and Plan
   53yoM with HIV; now with chronic meningitis of unclear source; possible
   TB meningitis.
   1.       Meningitis:
   - discussions ongoing regarding possible biopsy to help evaluate
   possibility of TB meningitis.
   - Will consider empiric treatment for TB. Appreciate ID services
   valuable input
   - Appreciate neuro involvement regarding continued ischemic events
   thought secondary to his active meningitis.
   2.       Respiratory failure:  suspect intermittent aspiration/plugging
   related to oral secretions.
   - currently stable from respiratory status; however he is tenuous and
   will remain in ICU.
   3.       Acidosis:  Suspect metabolic acidosis with respiratory
   compensation; likely distal RTA.  Change to sodium bicarbonate tabs and
   follow chemistry.
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  Insulin sliding scale; hypoglycemic this morning,
   decrease sliding scale
   Lines:
   PICC Line - [**2123-12-27**] 03:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: Not intubated
   Communication:  Family meeting held yesterday
   Code status:  Full code
   Disposition : ICU, patient is critically ill
   Total time spent:  30 minutes
   ------ Protected Section ------
   Addendum: Mr [**Known lastname 10351**]
s mother is the legal decision maker and is
   leaning toward comfort as a priority. She is clear that she would not
   want her son to have a brain biopsy. A family meeting will likely be
   set up today or tomorrow to rediscuss the plan and goals of care.
   For now, empiric treatment for TB meningitis will be initiated. Regimen
   per ID
 INH/ETB/moxiflox
   ------ Protected Section Addendum Entered By:[**Name (NI) 366**] [**Last Name (NamePattern1) 15**], MD
   on:[**2123-12-29**] 06:22 PM ------

2123-12-30 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Started on TB regimen
   SW discussed with mother goals of care and mother stated that she
   wanted comfort measures, brother [**Name (NI) 7373**] could not be reached.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2123-12-27**] 04:03 PM
   Cefipime - [**2123-12-28**] 10:03 AM
   Vancomycin - [**2123-12-28**] 01:06 PM
   Metronidazole - [**2123-12-28**] 03:20 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2123-12-30**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-30**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 131 (111 - 131) bpm
   BP: 113/82(86) {85/62(69) - 165/111(108)} mmHg
   RR: 22 (13 - 35) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 53.1 kg (admission): 41 kg
             Total In:
                                                                  6,056 mL
                                                                    552 mL
   PO:
             TF:
                                                                  1,423 mL
                                                                    370 mL
   IVF:
                                                                  4,291 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                    960 mL
   Urine:
                                                                    740 mL
                                                                    160 mL
   NG:
   Stool:
   800 mL
   Drains:
   Balance:
                                                                  4,916 mL
                                                                   -408 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///15/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   61 K/uL
   7.3 g/dL
   104 mg/dL
   0.9 mg/dL
   15 mEq/L
   3.8 mEq/L
   11 mg/dL
   121 mEq/L
   144 mEq/L
   23.0 %
   4.7 K/uL
        [image002.jpg]
                             [**2123-12-21**]  05:34 PM
                             [**2123-12-22**]  12:26 AM
                             [**2123-12-22**]  01:14 AM
                             [**2123-12-22**]  06:20 PM
                            [**2123-12-23**]  01:26 AM
                            [**2123-12-24**]  02:12 AM
                            [**2123-12-28**]  03:47 AM
                            [**2123-12-28**]  04:40 AM
                            [**2123-12-29**]  03:14 AM
                            [**2123-12-30**]  04:19 AM
   WBC
   11.7
   8.7
   7.9
   5.9
   5.0
   5.0
   4.7
   Hct
   29.9
   27.6
   27.5
   26.0
   27.8
   24.6
   23.0
   Plt
   83
   87
   72
   62
   63
   74
   61
   Cr
   0.7
   0.8
   0.7
   0.6
   0.8
   0.9
   0.9
   TCO2
   19
   18
   Glucose
   70
   70
   66
   94
   97
   61
   104
   Other labs: PT / PTT / INR:25.5/46.9/2.5, ALT / AST:42/61, Alk Phos / T
   Bili:82/2.6, Amylase / Lipase:/103, Differential-Neuts:82.8 %,
   Lymph:12.6 %, Mono:4.0 %, Eos:0.5 %, Lactic Acid:2.4 mmol/L,
   Albumin:2.4 g/dL, LDH:217 IU/L, Ca++:8.0 mg/dL, Mg++:1.4 mg/dL, PO4:2.7
   mg/dL
   Microbiology: No new growth
   Assessment and Plan
 TACHYCARDIA, OTHER
 .H/O CVA (STROKE, CEREBRAL INFARCTION), OTHER
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOTENSION (NOT SHOCK)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 LIVER FUNCTION ABNORMALITIES
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O ALCOHOL ABUSE
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   52 y/oM with hx of HIV (CD4 in [**2122**] 598), HCV, HBV who presents with
   acute on chronic mental status changes- diagnosed with meningitis. Now
   with acute episode of hypoxia.
   .
   # Hypoxia: Appears that he has intermittent aspiration with some mucous
   plugging. Currently stable.  Completed pneumonia course.
   -Wean O2 as tolerated
   -Close monitoring with aspiration precautions
   - PRN suctioning
   .
   # AMS: Likely tuberculous meningitis. Pt. w/ HIV and known TB infection
   with wasting and then a chronic leptomeningeal meningitis w/ very high
   protein not improving with standard antibiotics.  Mycoplasma meningitis
   is also a consideration, but would be atypical presentation of rare
   disease.  Brain biopsy would be low yield and unlikely to affect
   management.
   - empiric TB and mycoplasma treatment
   - f/u mycobacterial cultures
   - monitor WBC count
   - monitor fever curve
   .
   # Metabolic acidosis: Likely RTA plus diarrhea.  Stable.
   - Bicarb tabs, increase to TID.
   - LR in place of NS prn
   - d/c miralax
   .
   # Mixed hyperbilirubinemia: Tbili continues to improve, elevation could
   have been secondary to TB meds in ESLD
   - trend LFTs
   .
   # HIV: last CD4 count > 500, not on HAART as of [**2122**]. Likely elite
   controller.  repeat CD4 count 608
   - ID following
   .
   # insulin dependent DM: HSII and finger sticks QACHS
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  HISS
   Lines:
   PICC Line - [**2123-12-27**] 03:30 PM
   Prophylaxis:
   DVT: Subcutaneous heparin
   Stress ulcer: no indication for ppi
   Communication:  Patient and mother: [**Telephone/Fax (1) 10523**]; [**Telephone/Fax (1) 10524**] (cell
   number). Brother [**Name (NI) 2465**]: [**Telephone/Fax (1) 10525**]
   Code status: Full code, will try to bring family to consensus today
   Disposition: ICU for now given frequent mucous plugging

2123-12-30 11:15:00 Physician Attending Progress Note
Chief Complaint: Altered mental status, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53M with HIV and meningitis, concern for TB.
   24 Hour Events:
   Goals of care discussion with mother yesterday, attempting to clarify
   health care proxy.
   Started on anti-TB therapy yesterday.
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2123-12-27**] 04:03 PM
   Cefipime - [**2123-12-28**] 10:03 AM
   Vancomycin - [**2123-12-28**] 01:06 PM
   Metronidazole - [**2123-12-28**] 03:20 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2123-12-30**] 08:16 AM
   Other medications:
   Senna
   Rifaxamin
   MVI
   Insulin sliding scale
   Folic Acid
   Colace
   Heparin prophylaxis
   Moxyfloxacin
   Ethambutol
   Pyridoxine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-30**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.5
   HR: 119 (114 - 131) bpm
   BP: 93/74(79) {85/62(69) - 165/111(108)} mmHg
   RR: 10 (10 - 35) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 53.1 kg (admission): 41 kg
             Total In:
                                                                  6,056 mL
                                                                  1,235 mL
   PO:
             TF:
                                                                  1,423 mL
                                                                    916 mL
   IVF:
                                                                  4,291 mL
                                                                    199 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                  1,057 mL
   Urine:
                                                                    740 mL
                                                                    257 mL
   NG:
   Stool:
   800 mL
   Drains:
   Balance:
                                                                  4,916 mL
                                                                    178 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///15/
   Physical Examination
   Gen: Somnolent, opens eyes to noxious stimuli
   Chest: Clear anteriorly
   CV:  RRR
   Abd: s/nt/nd
   Ext: wasted, thin, cachectic
   Labs / Radiology
   7.3 g/dL
   61 K/uL
   104 mg/dL
   0.9 mg/dL
   15 mEq/L
   3.8 mEq/L
   11 mg/dL
   121 mEq/L
   144 mEq/L
   23.0 %
   4.7 K/uL
        [image002.jpg]
                             [**2123-12-21**]  05:34 PM
                             [**2123-12-22**]  12:26 AM
                             [**2123-12-22**]  01:14 AM
                             [**2123-12-22**]  06:20 PM
                            [**2123-12-23**]  01:26 AM
                            [**2123-12-24**]  02:12 AM
                            [**2123-12-28**]  03:47 AM
                            [**2123-12-28**]  04:40 AM
                            [**2123-12-29**]  03:14 AM
                            [**2123-12-30**]  04:19 AM
   WBC
   11.7
   8.7
   7.9
   5.9
   5.0
   5.0
   4.7
   Hct
   29.9
   27.6
   27.5
   26.0
   27.8
   24.6
   23.0
   Plt
   83
   87
   72
   62
   63
   74
   61
   Cr
   0.7
   0.8
   0.7
   0.6
   0.8
   0.9
   0.9
   TCO2
   19
   18
   Glucose
   70
   70
   66
   94
   97
   61
   104
   Other labs: PT / PTT / INR:25.5/46.9/2.5, ALT / AST:42/61, Alk Phos / T
   Bili:82/2.6, Amylase / Lipase:/103, Differential-Neuts:82.8 %,
   Lymph:12.6 %, Mono:4.0 %, Eos:0.5 %, Lactic Acid:2.4 mmol/L,
   Albumin:2.4 g/dL, LDH:217 IU/L, Ca++:8.0 mg/dL, Mg++:1.4 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
   53yoM with HIV (normal CD4 count), here with AMS and meningitis.
   1.       Respiratory Failure:
   - VBG today to assess PaCO2
   - Pulmonary toilet with suctioning as needed
   2.       Meningitis:
   - Treating with INH, Ethambutol, moxifloxacin, rifampin; will consider
   PZA if LFTs stable.
   - No plans for brain biopsy at this time
   3.       Metabolic Acidosis:  Evidence of RTA by urine studies
   - now on NaHCO3 tabs
   4.       Neuro:  No significant change in mental status.  MRI with
   progressive ischemic events.
   - does seem to have a component of pain/discomfort that is relieved by
   morphine.  Will continue conservative doses as needed for clear
   evidence of pain as long as no significant hypoxemia and no evidence
   for significant hypercarbia on VBG.
   5.       Goals of Care:  Plan family meeting today.
   ICU Care
   Nutrition:  Vivonex (Full) - [**2123-12-30**] 10:11 AM 60 mL/hour
   Glycemic Control:  Insulin sliding scale
   Lines:  PICC Line - [**2123-12-27**] 03:30 PM
   Prophylaxis:
   DVT: heparin prophylaxis
   Stress ulcer:  PPI
   VAP: Not intubated
   Communication:  Family meeting when can arrange with mother and
   brother.
   [**Name (NI) 156**] status: Full code
   Disposition : Transfer to floor pending family meeting
   Total time spent:  35 minutes

2123-12-31 11:16:00 Physician Attending Progress Note
Chief Complaint: Altered mental status, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53M with HIV, here with meningitis of unclear pathogen.
   24 Hour Events:
   Confirmed DNR/DNI status with family.
   Called out, awaiting bed.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2123-12-28**] 01:06 PM
   Metronidazole - [**2123-12-28**] 03:20 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2123-12-31**] 08:19 AM
   Other medications:
   Senna
   Rifaxamin
   MVI
   Insulin sliding scale
   Folic acid
   Colace
   Heparin prophylaxis
   Moxifloxacin
   INH
   Ethambutol
   Pyridoxine
   Sodium Bicarbonate
   Tylenol 500mg q6h
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-31**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35.6
C (96
   HR: 110 (105 - 128) bpm
   BP: 82/51(58) {72/51(58) - 108/74(79)} mmHg
   RR: 36 (13 - 40) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 53.1 kg (admission): 41 kg
             Total In:
                                                                  2,830 mL
                                                                  1,406 mL
   PO:
             TF:
                                                                  1,965 mL
                                                                    569 mL
   IVF:
                                                                    535 mL
                                                                    747 mL
   Blood products:
   Total out:
                                                                  1,407 mL
                                                                    582 mL
   Urine:
                                                                    607 mL
                                                                     82 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                  1,423 mL
                                                                    824 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///17/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   60 K/uL
   99 mg/dL
   0.9 mg/dL
   17 mEq/L
    3.4 mEq/L
   14 mg/dL
   120 mEq/L
   143 mEq/L
   22.8 %
   6.5 K/uL
        [image002.jpg]
                             [**2123-12-22**]  12:26 AM
                             [**2123-12-22**]  01:14 AM
                             [**2123-12-22**]  06:20 PM
                            [**2123-12-23**]  01:26 AM
                            [**2123-12-24**]  02:12 AM
                            [**2123-12-28**]  03:47 AM
                            [**2123-12-28**]  04:40 AM
                            [**2123-12-29**]  03:14 AM
                            [**2123-12-30**]  04:19 AM
                            [**2123-12-31**]  03:33 AM
   WBC
   11.7
   8.7
   7.9
   5.9
   5.0
   5.0
   4.7
   6.5
   Hct
   29.9
   27.6
   27.5
   26.0
   27.8
   24.6
   23.0
   22.8
   Plt
   83
   87
   72
   62
   63
   74
   61
   60
   Cr
   0.7
   0.8
   0.7
   0.6
   0.8
   0.9
   0.9
   0.9
   TCO2
   18
   Glucose
   70
   70
   66
   94
   97
   61
   104
   99
   Other labs: PT / PTT / INR:25.5/46.9/2.5, ALT / AST:35/56, Alk Phos / T
   Bili:78/2.7, Amylase / Lipase:/103, Differential-Neuts:82.8 %,
   Lymph:12.6 %, Mono:4.0 %, Eos:0.5 %, Lactic Acid:2.4 mmol/L,
   Albumin:2.3 g/dL, LDH:237 IU/L, Ca++:7.8 mg/dL, Mg++:1.6 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
   53yoM with HIV and meningitis; possilby secondary to TB.
   1.  Meningitis:
   - continue empiric TB coverage
   2.  Respiratory Distress:
   - suction as needed for tachypnea
   - continue morphine prn
   - does not appear volume overloaded
   3.  Metabolic Acidosis: in setting  of RTA
   - continue NaHCO3 tabs
   - Can bolus with LR if needed
   ICU Care
   Nutrition:  Tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2123-12-27**] 03:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:   PPI
   VAP:  Not intubated
   Communication: Family meeting held
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 20 minutes

2123-12-31 12:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CALLED OUT
   Confirmed with mother that she is decision maker. Made DNR/DNI and
   goals focused on overal comfort.
   Called out.
   VBG without significant acidosis of hypercarbia from morphine.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2123-12-28**] 01:06 PM
   Metronidazole - [**2123-12-28**] 03:20 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2123-12-31**] 08:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-31**] 12:18 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35.7
C (96.3
   HR: 109 (105 - 128) bpm
   BP: 81/54(60) {72/51(58) - 108/74(79)} mmHg
   RR: 26 (14 - 40) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 53.1 kg (admission): 41 kg
             Total In:
                                                                  2,830 mL
                                                                  2,196 mL
   PO:
             TF:
                                                                  1,965 mL
                                                                    743 mL
   IVF:
                                                                    535 mL
                                                                  1,364 mL
   Blood products:
   Total out:
                                                                  1,407 mL
                                                                    582 mL
   Urine:
                                                                    607 mL
                                                                     82 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                  1,423 mL
                                                                  1,614 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///17/
   Physical Examination
   Gen: Somnolent, opens eye to noxious stimuli
   Chest: Clear anteriorly
   CV:  RRR
   Abd: s/nt/nd
   Ext: wasted, thin, cachectic
   Labs / Radiology
   60 K/uL
   7.3 g/dL
   99 mg/dL
   0.9 mg/dL
   17 mEq/L
    3.4 mEq/L
   14 mg/dL
   120 mEq/L
   143 mEq/L
   22.8 %
   6.5 K/uL
        [image002.jpg]
                             [**2123-12-22**]  12:26 AM
                             [**2123-12-22**]  01:14 AM
                             [**2123-12-22**]  06:20 PM
                            [**2123-12-23**]  01:26 AM
                            [**2123-12-24**]  02:12 AM
                            [**2123-12-28**]  03:47 AM
                            [**2123-12-28**]  04:40 AM
                            [**2123-12-29**]  03:14 AM
                            [**2123-12-30**]  04:19 AM
                            [**2123-12-31**]  03:33 AM
   WBC
   11.7
   8.7
   7.9
   5.9
   5.0
   5.0
   4.7
   6.5
   Hct
   29.9
   27.6
   27.5
   26.0
   27.8
   24.6
   23.0
   22.8
   Plt
   83
   87
   72
   62
   63
   74
   61
   60
   Cr
   0.7
   0.8
   0.7
   0.6
   0.8
   0.9
   0.9
   0.9
   TCO2
   18
   Glucose
   70
   70
   66
   94
   97
   61
   104
   99
   Other labs: PT / PTT / INR:25.5/46.9/2.5, ALT / AST:35/56, Alk Phos / T
   Bili:78/2.7, Amylase / Lipase:/103, Differential-Neuts:82.8 %,
   Lymph:12.6 %, Mono:4.0 %, Eos:0.5 %, Lactic Acid:2.4 mmol/L,
   Albumin:2.3 g/dL, LDH:237 IU/L, Ca++:7.8 mg/dL, Mg++:1.6 mg/dL, PO4:3.0
   mg/dL
   Microbiology: No new growth
   Assessment and Plan
 TACHYCARDIA, OTHER
 .H/O CVA (STROKE, CEREBRAL INFARCTION), OTHER
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOTENSION (NOT SHOCK)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 LIVER FUNCTION ABNORMALITIES
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O ALCOHOL ABUSE
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   52 y/oM with hx of HIV (CD4 in [**2122**] 598), HCV, HBV who presents with
   acute on chronic mental status changes- diagnosed with meningitis. Now
   with acute episode of hypoxia.
   .
   # Hypoxia: Appears that he has intermittent aspiration with some mucous
   plugging. Currently stable.  Completed pneumonia course.
   -Wean O2 as tolerated
   -Close monitoring with aspiration precautions
   - PRN suctioning
   .
   # AMS: Likely tuberculous meningitis. Pt. w/ HIV and known TB infection
   with wasting and then a chronic leptomeningeal meningitis w/ very high
   protein not improving with standard antibiotics.  Mycoplasma meningitis
   is also a consideration, but would be atypical presentation of rare
   disease.  Brain biopsy would be low yield and unlikely to affect
   management.
   - empiric TB and mycoplasma treatment
   - f/u mycobacterial cultures
   - monitor WBC count
   - monitor fever curve
   .
   # Metabolic acidosis: Likely RTA plus diarrhea.  Stable.
   - Bicarb tabs, increase to TID.
   - LR in place of NS prn
   - d/c miralax
   .
   # Mixed hyperbilirubinemia: Tbili continues to improve, elevation could
   have been secondary to TB meds in ESLD
   - trend LFTs
   .
   # HIV: last CD4 count > 500, not on HAART as of [**2122**]. Likely elite
   controller.  repeat CD4 count 608
   - ID following
   .
   # insulin dependent DM: HSII and finger sticks QACHS
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  HISS
   Lines:
   PICC Line - [**2123-12-27**] 03:30 PM
   Prophylaxis:
   DVT: Subcutaneous heparin
   Stress ulcer: no indication for ppi
   Communication:  Patient and mother: [**Telephone/Fax (1) 10523**]; [**Telephone/Fax (1) 10524**] (cell
   number). Brother [**Name (NI) 2465**]: [**Telephone/Fax (1) 10525**]
   Code status: DNR/DNI
   Disposition: Floor